US08026257B2
(±)-1-(3-Bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethanol.
3-Bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole-7-carbaldehyde (1.35 g, 3.46 mmol) was dissolved in tetrahydrofuran (10 mL), cooled to −78° C. and treated with methylmagnesium bromide (3.0 M in diethyl ether, 1.7 mL, 5.20 mmol) over several minutes. After 1 h, the ice bath was removed and stirring continued for 1 h at room temperature. The reaction was cooled to 0° C., treated with saturated ammonium chloride and diluted with ethyl acetate. The layers were separated. The organic layer was washed with water (2×), brine (2×), dried over sodium sulfate, filtered and concentrated. Flash chromatography on silica gel (30% ethyl acetate/hexanes) afforded 1.29 g (92%) as a brown oil. 1H-NMR (CDCl3, 300 MHz) δ 7.51-7.53 (m, 2H), 5.91 (qAB, JAB=11.7 Hz, 2H), 5.52-5.54 (m, 1H), 3.49-3.54 (m, 2H), 1.63 (d, J=6.6 Hz, 3H), 0.78-0.83 (m, 2H), 0.09 (s, 9H). Mass spec.: 429.18 (MNa)+.

reactant | 3-Bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole-7-carbaldehyde | 3.46 mmol, 1.35 g | BrC1=NN(C2=C(C=C(C=C12)Cl)C=O)COCC[Si](C)(C)C | C14H18BrClN2O2Si
reactant | methylmagnesium bromide | 5.20 mmol, 3.0 M, 1.7 mL | C[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (±)-1-(3-Bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethanol | BrC1=NN(C2=C(C=C(C=C12)Cl)C(C)O)COCC[Si](C)(C)C | C15H22BrClN2O2Si
